US09333205B2
Pd2(dba)3 (1.1 g, 1.2 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl (0.94 g, 2.4 mmol), 5-bromo-2-trifluoromethoxy-phenylamine (30.7 g, 120 mmol) in THF (50 mL) were charged in a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. LiN(TMS)2 solution (1M in THF, 288 mL) and N-methylpiperazine (26.7 mL, 194 mmol) were added and the reaction refluxed for 1 hours. The reaction mixture was then allowed to cool to room temperature and filtered through a pad of celite. The organic phase was concentrated, the residue dissolved in DCM (200 mL) and washed with H2O (1×100 mL). The organic phases were dried over anhydrous Na2SO4, the solvent evaporated in vacuo and the crude solid was purified by flash chromatography on silica gel (eluant: DCM/EtOH 90/10) to afford 23 g of 4-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamine (70% yield) as a light brown powder.

reactant | 5-bromo-2-trifluoromethoxy-phenylamine | 120 mmol, 30.7 g | BrC=1C=CC(=C(C1)N)OC(F)(F)F | C7H5BrF3NO
reactant | LiN(TMS)2 | 1M, 288 mL | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | N-methylpiperazine | 194 mmol, 26.7 mL | CN1CCNCC1 | C5H12N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 1.2 mmol, 1.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 2.4 mmol, 0.94 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
product | 4-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamine | 23 g, 70% yield | CN1CCN(CC1)C1=CC(=C(C=C1)N)OC(F)(F)F | C12H16F3N3O
